* D:\Code\projects\skeemitehnika-projekt-2025\analog\analog-scheme.asc
R8 N001 N002 200k
C1 N001 N002 22pF
V1 VIN 0 5V
I1 N001 0 22.5µA
R1 VIN N003 4.7k
R2 N003 N006 4.7k
R3 N006 N009 4.7k
R4 N009 0 4.7k
R5 N004 N005 220
R6 N007 N008 220
R7 N010 N011 220
D1 N011 0 1N914
D2 N008 0 1N914
D3 N005 0 1N914
X§U1 0 N001 VIN 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 N002 N003 VIN 0 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 N002 N006 VIN 0 N007 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U4 N002 N009 VIN 0 N010 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\u8mei\AppData\Local\LTspice\lib\cmp\standard.dio
.dc I1 0uA 30uA 0.5uA
.lib opamp.sub
* BPW34
.lib UniversalOpAmp2.lib
.backanno
.end
