* D:\Code\projects\skeemitehnika-projekt-2025\analog\analog-scheme.asc
R8 N001 OUT 250k
C1 N001 OUT 22pF
V1 VDD 0 5V
I1 N001 0 22.5µA
R1 VDD N002 4.7k
R2 N002 N005 4.7k
R3 N005 N008 4.7k
R4 N008 0 4.7k
R5 N003 N004 220
R6 N006 N007 220
R7 N009 N010 220
D1 N010 0 1N914
D2 N007 0 1N914
D3 N004 0 1N914
X§U1 BIAS N001 VDD 0 OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 OUT N002 VDD 0 N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 OUT N005 VDD 0 N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U4 OUT N008 VDD 0 N009 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 BIAS VDD 10k
R10 BIAS 0 220
C2 0 BIAS 1µ
.model D D
.lib C:\Users\u8mei\AppData\Local\LTspice\lib\cmp\standard.dio
.dc I1 0uA 30uA 0.5uA
.lib opamp.sub
* BPW34
.lib UniversalOpAmp2.lib
.backanno
.end
