* D:\Code\projects\skeemitehnika-projekt-2025\analog\analog-scheme.asc
R8 N001 OUT 500k
C1 N001 OUT 22p
V1 VDD 0 5V
I1 N001 0 22.5µ
R1 VDD Dist3 35k
R2 Dist3 Dist2 31k
R3 Dist2 Dist1 32k
R4 Dist1 0 2k
R5 N002 N003 220
R6 N004 N005 220
R7 N006 N007 220
D1 N007 0 1N914
D2 N005 0 1N914
D3 N003 0 1N914
X§U1 BIAS N001 VDD 0 OUT level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 OUT Dist3 VDD 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 OUT Dist2 VDD 0 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U4 OUT Dist1 VDD 0 N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 BIAS VDD 10k
R10 BIAS 0 220
C2 0 BIAS 1µ
.model D D
.lib C:\Users\u8mei\AppData\Local\LTspice\lib\cmp\standard.dio
.dc I1 0uA 10uA 0.1uA
.lib opamp.sub
* BPW34
.lib UniversalOpAmp2.lib
.backanno
.end
